US05917057
3-(6,11-Dihydro-dibenz[b,e]oxepin-2-yl)propanoic acid
A solution of 3-(6,11-dihydro-11-oxo-dibenz[b,e]oxepin-2-yl)propanoic acid (6.0 g) in 120 ml glacial acetic acid was treated with zinc dust (18.0 g) in portions over 1 minute. This slurry was heated at reflux for 2 hours then filtered while hot through a sintered funnel. The filtrate was evaporated, taken up in ethyl acetate and washed with dilute HCl, then dried and evaporated to a solid. This solid was recrystallized from ethyl acetate to give 4.3 g of crystals, m.p. 181-183° C.

reactant | 3-(6,11-dihydro-11-oxo-dibenz[b,e]oxepin-2-yl)propanoic acid | 6.0 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCC(=O)O | C17H14O4
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 18.0 g | [Zn] | Zn
product | 3-(6,11-Dihydro-dibenz[b,e]oxepin-2-yl)propanoic acid | 4.3 g | C1=C(C=CC=2OCC3=C(CC21)C=CC=C3)CCC(=O)O | C17H16O3
